US07820821B2
A solution of 3,4-diaminobenzoic acid (3 mmol) in DMF (10 mL) was charged with 1-isothiocyanato-2-trifluoromethylbenzene (3.3 mmol) and the resulting solution was stirred at RT for 4 h. After thiourea formation was complete, solid K2CO3 (10 mmol) was added to the reaction mixture, and the mixture was heated at 90° C. for 10 h. The reaction mixture was cooled to RT and acidified with 10% aqueous HCl to pH 7. The contents were poured onto ice cold water (30 mL) with vigorous stirring. The solid formed was collected by filtration, washed with water, and dried in vacuo to provide the product, 2-(2-trifluoromethylphenylamino)-1H-benzoimidazole-5-carboxylic acid as a yellow solid.

reactant | 3,4-diaminobenzoic acid | 3 mmol | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | 1-isothiocyanato-2-trifluoromethylbenzene | 3.3 mmol | N(=C=S)C1=C(C=CC=C1)C(F)(F)F | C8H4F3NS
reactant | thiourea | NC(=S)N | CH4N2S
reactant | K2CO3 | 10 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-trifluoromethylphenylamino)-1H-benzoimidazole-5-carboxylic acid | FC(C1=C(C=CC=C1)NC1=NC2=C(N1)C=CC(=C2)C(=O)O)(F)F | C15H10F3N3O2
